### PR TITLE
[Merged by Bors] - feat(Analysis/Complex): `enorm` versions for `OperatorNorm.lean`

### PR DESCRIPTION
**Pull request by vasnesterov**
Add `enorm` versions of theorems in `OperatorNorm.lean` as it currently has only `norm` and `nnnorm` versions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/OperatorNorm.lean [hunk 1]
```diff
@@ -36,6 +36,10 @@ theorem reCLM_norm : ‖reCLM‖ = 1 :=
       1 = ‖reCLM 1‖ := by simp
       _ ≤ ‖reCLM‖ := unit_le_opNorm _ _ (by simp)
 
+@[simp]
+theorem reCLM_enorm : ‖reCLM‖ₑ = 1 := by
+  simp [← ofReal_norm]
```
Comment (grunweg) [inline Mathlib/Analysis/Complex/OperatorNorm.lean]: I think this is simple enough to be written one line (likewise below):
```suggestion
theorem reCLM_enorm : ‖reCLM‖ₑ = 1 := by simp [← ofReal_norm]
```

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! I have only a minor comment.
bors d+
